US04409220
2-Amino-5(R,S),7,9(R,S)-trimethyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine dihydrochloride
This compound was prepared analogous to Example 22 from 1,3(R,S),6(R,S)-trimethyl-2,3,6,7-tetrahydro-4,5-bis(trimethylsilyloxy)-azepine and α-amino-acetamidine dihydrochloride.

reactant | 1,3(R,S),6(R,S)-trimethyl-2,3,6,7-tetrahydro-4,5-bis(trimethylsilyloxy)-azepine | CN1CC(C(=C(C(C1)C)O[Si](C)(C)C)O[Si](C)(C)C)C | C15H33NO2Si2
reactant | α-amino-acetamidine dihydrochloride | Cl.Cl.NCC(=N)N
product | 2-Amino-5(R,S),7,9(R,S)-trimethyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine dihydrochloride | Cl.Cl.NC=1C=NC2=C(C(CN(CC2C)C)C)N1 | InChI=1S/C11H18N4.2ClH/c1-7-5-15(3)6-8(2)11-10(7)13-4-9(12)14-11;;/h4,7-8H,5-6H2,1-3H3,(H2,12,14);2*1H
